US07253286B2
N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)-N′-(4-fluorophenyl)urea
4-(4-Aminophenoxy)-7-(2-methoxyethoxy)-6-cyanoquinoline (109 mg, 0.325 mmol) was dissolved in toluene (5 ml) while heating, and then 4-fluorophenyl isocyanate (0.057 ml, 0.488 mmol) was added and the mixture was heated to reflux for 1 hour. After cooling, the precipitated crystals were filtered out, washed with ethyl acetate and dried under reduced pressure to obtain the title compound (148 mg, 0.311 mmol, 96.4%) as white crystals.

reactant | 4-(4-Aminophenoxy)-7-(2-methoxyethoxy)-6-cyanoquinoline | 0.325 mmol, 109 mg | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCCOC)C=C1 | C19H17N3O3
reactant | 4-fluorophenyl isocyanate | 0.488 mmol, 0.057 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-(6-Cyano-7-(2-methoxyethoxy)-4-quinolyl)oxyphenyl)-N′-(4-fluorophenyl)urea | 0.311 mmol, 148 mg, 96.4% | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C26H21FN4O4
